US07977370B2
N-(2-(2-(4-butyl-4-(dimethylamino)-1-(3-methyl-1H-indol-2-yl)cyclohexyl)-1H-indol-3-yl)ethyl)cyclopentane sulphonamide (Example No. 29, mixture of the two possible diastereoisomers)
4-(3-(2-aminoethyl)-1H-indol-2-yl)-1-butyl-N,N-dimethyl-4-(3-methyl-1H-indol-2-yl)cyclohexylamine (120 mg, 0.255 mmol, mixture of the two possible diastereoisomers in a ratio of approx. 30:70) mixed in dichloromethane (5 ml) with triethylamine (0.12 ml, 0.863 mmol) and cyclopentane sulphonyl chloride (65 mg, 0.385 mmol). After a reaction time of 24 h at 25° C. the reaction mixture was mixed with 1N sodium hydroxide solution (10 ml) and extracted with dichloromethane (3×15 ml). The combined organic phases were dried with Na2SO4 and then filtered. The volatile constituents of the filtrate were completely removed in a vacuum. The residue (yellow foam, 173 mg) was purified by column chromatography [silica gel 60 (25 g); ethyl acetate/methanol 4:1 (250 ml), methanol/30% ammonia 9:1 (100 ml)]. The product was obtained as a beige-coloured solid with a yield of 39 mg (25%) (melting point 111-115° C., AS 11227, mixture of the two possible diastereoisomers in a ratio of approx. 30:70).

reactant | 4-(3-(2-aminoethyl)-1H-indol-2-yl)-1-butyl-N,N-dimethyl-4-(3-methyl-1H-indol-2-yl)cyclohexylamine | NCCC1=C(NC2=CC=CC=C12)C1(CCC(CC1)(CCCC)N(C)C)C=1NC2=CC=CC=C2C1C | C31H42N4
reactant | triethylamine | 0.863 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopentane sulphonyl chloride | 0.385 mmol, 65 mg | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(2-(2-(4-butyl-4-(dimethylamino)-1-(3-methyl-1H-indol-2-yl)cyclohexyl)-1H-indol-3-yl)ethyl)cyclopentane sulphonamide | C(CCC)C1(CCC(CC1)(C=1NC2=CC=CC=C2C1C)C=1NC2=CC=CC=C2C1CCNS(=O)(=O)C1CCCC1)N(C)C | C36H50N4O2S
